US08461179B1
A mixture of 3-(5-amino-2-chlorophenyl)-7-chloro-1-methyl-1,6-naphthyridin-2(1H)-one (5 g, 15.67 mmol), 4-methoxybenzylmethylamine (3.6 g, 23.5 mmol) and DBU (3.7 g, 23.5 mmol) in NMP (80 mL) was heated at 180° C. under N2 for 4 h. The reaction was cooled to RT and poured into water (600 mL). The precipitate was collected by filtration and dried in vacuo to give 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2-chlorophenyl)-1-methyl-1,6-naphthyridin-2(1H)-one (6.5 g, 95% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.46 (s, 1H), 7.68 (s, 1H), 7.16 (d, J=8.8 Hz, 2H), 7.06 (d, J=8.4 Hz, 1H), 6.85 (d, J=8.8 Hz, 2H), 6.54-6.51 (m, 2H), 6.29 (s, 1H), 5.23 (s, 2H), 4.85 (s, 2H), 3.69 (s, 3H), 3.51 (s, 3H), 3.07 (s, 3H).

reactant | 3-(5-amino-2-chlorophenyl)-7-chloro-1-methyl-1,6-naphthyridin-2(1H)-one | 15.67 mmol, 5 g | NC=1C=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)Cl)C)=O)Cl | C15H11Cl2N3O
reactant | 4-methoxybenzylmethylamine | 23.5 mmol, 3.6 g | COC1=CC=C(CCN)C=C1 | C9H13NO
reactant | DBU | 23.5 mmol, 3.7 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | 600 mL | O | H2O
solvent | NMP | 80 mL | CN1CCCC1=O | C5H9NO
product | 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-2-chlorophenyl)-1-methyl-1,6-naphthyridin-2(1H)-one | 6.5 g, 95% yield | COC1=CC=C(CN(C2=NC=C3C=C(C(N(C3=C2)C)=O)C2=C(C=CC(=C2)N)Cl)C)C=C1 | C24H23ClN4O2
